US07700641B2
Synthesis of ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)acetate
Following the procedure as described in EXAMPLE 1.45, and making non-critical variations using ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate to replace ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained (41%): mp 133-134° C.; 1H NMR (300 MHz, CDCl3) δ 7.26-7.15 (m, 3H), 6.78-6.58 (m, 2H), 5.08 (d, 1H), 4.91 (d, 1H), 4.63 (d, 1H), 4.35 (d, 1H), 4.24 (q, 2H), 1.29 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.5, 166.8, 157.1, 143.7, 130.7, 129.0, 127.8, 120.0, 111.8, 111.6, 107.5, 99.8, 99.5, 62.2, 59.1, 41.7, 14.1; MS (ES+) m/z 438 (M+1), 440 (M+1), 460 (M+23), 462 (M+23).

reactant | ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)(CO)C1=C(C=C(C(=C1)F)F)O)=O)=O | C19H16BrF2NO5
reactant | ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(CO)C=1C=C2CCCC2=CC1O)=O)=O | C22H23NO5
product | ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=C(C=CC=C13)Br)COC1=C2C=C(C(=C1)F)F)=O)=O | C19H14BrF2NO4
